Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Elective Ileostomy reversal
Nonhealing wound and ventral hernia.
 
Major Surgical or Invasive Procedure:
Colorectal service:
- Ileostomy takedown, lysis of adhesions, excision of nonhealing 
wound

Plastic service: 
-  Intraoperative consultation with repair of ventral hernia in 
multiple layers and component separation.
- Placement of intraabdominal wall Seri scaffold.

 
History of Present Illness:
___ w hx of a transverse colonic polyp s/p lap transverse 
colectomy (___) by Dr. ___ a leak from colocolonic 
anastomosis s/p exploratory laparotomy, revision anastomosis, 
right colectomy, and diverting loop ileostomy on ___ by Dr. 
___. 

Since then patient was readmitted on ___ due to ___. Renal 
was consulted and felt that his presentation was likely ___ to 
post-ATN diuresis. Patient ___ resolved with IV fluids. When d/c 
from this hospitalization his Cr normalized to 1.2 and patient 
has had close follow up with Nephrology. His also was found to 
have a pan-sensitive Klebsiella UTI infection and had received 
successful txm for it. 

On ___, patient presented to ___ for an elective 
Ileostomy take down. He was found to have a significant ventral 
hernia and significant abscesses above and below the midline 
fascia. Plastic surgery was consulted and assisted with ventral 
hernia repair (Please for complete details, refer to Operative 
Note from ___ from both Colorectal service and Plastic 
service. 

 
Past Medical History:
HTN
T2DM
Gout
Pernicious anemia
HLD
Fatty liver disease
Laparoscopic transverse colectomy ___
Ex lap, right colectomy, diverting ileostomy
 
Social History:
___
Family History:
Denies any history of cancer or heart disease.

 
Physical Exam:
Discharge exam: 
VS: T 98.9, HR 102, BP 156/74, RR 16, SaO2 97% RA
GEN: No acute distress, alert and cooperative
HEENT: NCAT, EOMI, MMM
CV: RRR, no M/R/G
PULM: Easy work of breathing
ABD: Midline incision C/D/I, JP drain sites C/D/I. No erythema 
or drainage
EXT: Warm, no edema
 
Pertinent Results:
___ 04:06PM   SODIUM-137 POTASSIUM-4.9 CHLORIDE-107
___ 04:06PM   MAGNESIUM-1.4*
___ 04:06PM   HCT-33.0*
___ 11:20AM   GLUCOSE-115* UREA N-12 CREAT-1.1 SODIUM-134 
CHLORIDE-105 TOTAL CO2-23
___ 07:50AM BLOOD WBC-10.7 RBC-3.46* Hgb-10.1* Hct-29.7* 
MCV-86 MCH-29.1 MCHC-33.9 RDW-15.1 Plt ___
___ 06:00AM BLOOD WBC-5.6 RBC-3.04* Hgb-8.8* Hct-26.1* 
MCV-86 MCH-28.8 MCHC-33.5 RDW-15.2 Plt ___
___ 07:50AM BLOOD Glucose-172* UreaN-12 Creat-1.1 Na-138 
K-5.4* Cl-106 HCO3-21* AnGap-16
___ 06:00AM BLOOD Glucose-132* UreaN-10 Creat-0.9 Na-134 
K-4.2 Cl-103 HCO3-23 AnGap-12
 
Brief Hospital Course:
Mr ___ presented to ___ holding at ___ on ___ for 
a Ileostomy reversal. He tolerated the procedure well but was 
found to have a significant ventral hernia that required 
intraoperative plastic consultation. (for details please refer 
to operative note from Dr. ___  ___ surgery) and Dr. 
___ surgery). As a result he is s/p ileostomy 
takedown, lysis of adhesions, excision
of nonhealing wound by the Colorectal servce and repair of 
ventral hernia in multiple layers, component separation, and 
placement of an intraabdominal wall Seri scaffold. Of note, 
patient was found to have signs of abcess above and below the 
midline fascia and was therefore started on Vancomycin which was 
later switched to Bactrim prior to d/c. 

During Pacu he was found to have low UOP that required a 500cc 
bolus. As he had a prior history ___ his Cr was closely 
monitored but stayed stable to 1.1 during this hospitalization. 
The patient was transferred to the floor on POD #0 for further 
post-operative management.  
Neuro: no events 
CV:  no events
Pulm:  no events
GI: no events 
GU:  no events. Patient Cr continued stable during 
hospitalization and patient was voiding appropriately. 
ID:  Patient was found to have a significant abscess formation 
in his midline wound incision above and below the fascia that 
required aggressive debridement, placement of two JP drains and 
a few days of Vancomycin. The ___ prior to discharge patient 
was switched to Bactrim PO BID for a total course of 14 days per 
plastic.  
Heme: no events  

On ___, the patient was discharged to home with ___ 
services. Both JP drains were removed prior to discharge. At 
discharge, he was tolerating a regular diet, passing flatus, 
stooling, voiding, and ambulating independently. He will 
follow-up in the clinic in ___ weeks. This information was 
communicated to the patient directly prior to discharge.  

Post-Surgical Complications During Inpatient Admission:  
[ ] Post-Operative Ileus resolving w/o NGT  
[ ] Post-Operative Ileus requiring management with NGT  
[ ] UTI  
[ ] Wound Infection  
[ ] Anastomotic Leak  
[ ] Staple Line Bleed  
[ ] Congestive Heart failure  
[ ] ARF  
[ ] Acute Urinary retention, failure to void after Foley D/C'd  
[ ] Acute Urinary Retention requiring discharge with Foley  
Catheter  
[ ] DVT  
[ ] Pneumonia  
[ ] Abscess  
[x] Other: Personal family issue. On POD 2 patient was informed 
that his son committed suicide. He opted to be discharge home 
prior to have return of bowel function. He was discharge home on 
a clear diet with ___ service to monitor return of his bowel 
function, Bactrim x 14 days for his wound infecton, two 
abdominal drain in place. He was instructed to follow-up with us 
and Dr. ___ in clinic within a week. 
  
Social Issues Causing a Delay in Discharge:  
[ ] Delay in organization of ___ services  
[ ] Difficulty finding appropriate rehabilitation hospital  
disposition.  
[ ] Lack of insurance coverage for ___ services  
[ ] Lack of insurance coverage for prescribed medications.  
[ ] Family not agreeable to discharge plan.  
[ ] Patient knowledge deficit related to ileostomy delaying  
discharge.  
[x] No social factors contributing in delay of discharge.  
 
Medications on Admission:
1. Aspirin 81 mg PO DAILY 
2. LOPERamide 4 mg PO TID:PRN diarrhea 
3. Omeprazole 20 mg PO BID 
4. GlyBURIDE 5 mg PO BID 
5. MetFORMIN (Glucophage) 500 mg PO BID 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Acetaminophen 1000 mg PO TID 
3. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*20 Tablet Refills:*0
4. GlyBURIDE 5 mg PO BID 
5. MetFORMIN (Glucophage) 500 mg PO BID 
6. Omeprazole 20 mg PO BID 
7. Sulfameth/Trimethoprim DS 1 TAB PO BID abdominal abcess 
RX *sulfamethoxazole-trimethoprim [Bactrim DS] 800 mg-160 mg 1 
tablet(s) by mouth twice a day Disp #*14 Tablet Refills:*0
8. Docusate Sodium 100 mg PO BID:PRN constipation 
Hold for loose or watery stools. 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Ileostomy takedown/reversal
Nonhealing wound and ventral hernia.

 
Discharge Condition:
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital after an ileostomy takedown.  
During the procedure we found that you had a ventral hernia. As 
a result the plastic service was consulted to assist with repair 
of your ventral hernia. 

As a result you have a large vertical incision in your abdomen 
and also two drains in place that is helping to drain any fluid 
collection into your abdomen. You (WILL OR WILL NOT) be 
discharge home with these drains. You midline incision has a 
dermabound. All you stitches are under the skin so you do not 
have to worry about them. You can shower normally once the 
drains are removed. Meanwhile avoid direct water around your 
abdominal area. 

Please monitor the incision for signs and symptoms of infection 
including: increasing redness at the incision, opening of the 
incision, increased pain at the incision line, draining of 
white/green/yellow/foul smelling drainage, or if you develop a 
fever. 

Due to your personal circumstances you will be discharge home a 
little bit earlier than recommended as you are still on a clear 
diet and not passing flatus consistently. Therefore, we have set 
up a ___ nurse to follow up with you daily at home to make sure 
your are recovering well. 

Please DO NOT advance your diet until your are passing flatus 
consistent. If you have any questions do not hesitate to call 
our office. 
  
Please monitor your bowel function closely. You may or may not 
have had a bowel  movement prior to your discharge which is 
acceptable, however it is important that you have a bowel 
movement in the next ___ days. After anesthesia it is not 
uncommon for patient’s to have some decrease in bowel function 
but your should not have prolonged constipation. Some loose 
stool and passing of small amounts of dark, old appearing blood 
are expected however, if you notice that you are passing bright 
red blood with bowel your please seek medical attention. If you 
are passing loose stool without improvement please call the 
office or go to the emergency room if the symptoms are severe. 
If you are taking narcotic pain medications there is a risk that 
you will have some constipation. Please take an over the counter 
stool softener such as Colace, and if the symptoms does not 
improve call the office. It is also not uncommon after an 
ileostomy takedown to have frequent loose stools until you are 
taking more regular food however this should improve. 
 
The muscles of the sphincters have not been used in quite some 
time and you may experience urgency or small amounts of 
incontinence however this should improve. If you do not show 
improvement in these symptoms within ___ days please call the 
office for advice. 

Occasionally, patients will need to take a medication to slow 
their bowel movements as their bodies adjust to the new normal 
without an ileostomy, you should consult with our office for 
advice. If you have any of the following symptoms   
No heavy lifting for at least 6 weeks after surgery unless 
instructed otherwise by Dr. ___, Dr. ___ Dr. ___. 
You may gradually increase your activity as tolerated but clear 
heavy exercise with Dr. ___, Dr. ___ Dr. ___.  
 
You will be prescribed a small amount of the pain medication 
Oxycodone. Please take this medication exactly as prescribed. 
You may take Tylenol as recommended for pain. Please do not take 
more than 4000mg of Tylenol daily. Do not drink alcohol while 
taking narcotic pain medication or Tylenol. Please do not drive 
a car while taking narcotic pain medication.  
 
Thank you for allowing us to participate in your care! Our hope 
is that you will have a quick return to your life and usual 
activities. Good luck!  
 
Followup Instructions:
___